US07285558B2
5-methyl-2-(1-naphthylmethyl)-7-neopentyl-3-pyridin-4-yl-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione
This compound was synthesized by the reaction of 5-methyl-2-(1-naphthylmethyl)-3-pyridin-4-yl-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione and 1-bromo-2-methylpropane using DBU as abase in DMF at 100° C. Mass: 454.36 (M+H).

reactant | 5-methyl-2-(1-naphthylmethyl)-3-pyridin-4-yl-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | CN1C(NC=2C(C1=O)=C(N(N2)CC2=CC=CC1=CC=CC=C21)C2=CC=NC=C2)=O | C22H17N5O2
reactant | 1-bromo-2-methylpropane | BrCC(C)C | C4H9Br
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DMF | CN(C)C=O | C3H7NO
product | 5-methyl-2-(1-naphthylmethyl)-7-neopentyl-3-pyridin-4-yl-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | CN1C(N(C=2C(C1=O)=C(N(N2)CC2=CC=CC1=CC=CC=C21)C2=CC=NC=C2)CC(C)(C)C)=O | C27H27N5O2
